US04686235
To a suspension of 104 g (0.291 moles) of methyltriphenylphosphonium bromide in 100 ml dry tetrahydrofuran at 0° was added 115 ml (0.275 moles) of 2.4M n-butyllithium and the dark red solution was stirred at 0° for 30 minutes. Then a solution of 38.2 g (0.195 moles) of 2-(3-oxapropyloxy)-5-methoxybenzaldehyde in 100 ml of dry tetrahydrofuran was added and the solution was stirred at room temperature for 60 minutes. The solution was concentrated and the residue partitioned between ether and water. The ether layer was washed with aqueous Na2CO3, then brine, then dried (Na2SO4) and concentrated. The oily residue was dissolved in 500 ml of 10% ethylacetate-hexane and cooled at 0° overnight, then filtered. The filtrate was concentrated to give 33.8 g (89%) of 2-ethenyl-4-methoxy-1-O-methoxymethylphenol as a pale yellow liquid.

reactant | n-butyllithium | 0.275 moles, 2.4M, 115 ml | C(CCC)[Li]
reactant | 2-(3-oxapropyloxy)-5-methoxybenzaldehyde | 0.195 moles, 38.2 g | C(CO)OC1=C(C=O)C=C(C=C1)OC | C10H12O4
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | methyltriphenylphosphonium bromide | 0.291 moles, 104 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 2-ethenyl-4-methoxy-1-O-methoxymethylphenol | 33.8 g, 89% | C(=C)C1=C(C=CC(=C1)OC)OCOC | C11H14O3
